US08030500B2
2-Methoxy-isonicotinoyl chloride
Thionyl chloride (30.0 mL, 0.39 mol) was added to a suspension of 2-methoxy-isonicotinic acid (15.0 g, 97.9 mmol) in anhydrous toluene (150 mL). The mixture was heated at 80° C. under nitrogen for 3 hours, cooled to room temperature and filtered. The filtrate was concentrated in vacuo to afford the title compound 7.7 g (46% yield).

reactant | Thionyl chloride | 0.39 mol, 30.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methoxy-isonicotinic acid | 97.9 mmol, 15.0 g | COC=1C=C(C(=O)O)C=CN1 | C7H7NO3
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Methoxy-isonicotinoyl chloride | 7.7 g, 46% yield | COC=1C=C(C(=O)Cl)C=CN1 | C7H6ClNO2
